US04728645
A solution of 0.80 mmoles of lithium diisopropylamide, prepared from 0.12 ml of diisopropylamine and 0.32 ml of 2.5M n-butyllithium in 6 ml of tetrahydrofuran at 0°, is slowly added to a solution of 0.17 g of 5-(4-cyanophenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine in 2 ml of tetrahydrofuran at -78°. After 0.5 h, 0.1 ml of benzyl bromide is added dropwise. The reaction mixture is stirred for an additional 1 h, quenched with 5 ml of water, made acidic with 1N hydrochloric acid, diluted with 20 ml of ether and the layers are separated. The aqueous phase is adjusted to pH=7, extracted with ethyl acetate (3×15 ml) and the organic extracts are dried over sodium sulfate. Filtration and evaporation produces a foam which is treated with one molar equivalent of ethereal hydrogen chloride to yield 5-benzyl-5-(4-cyanophenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine hydrochloride, m.p. 249°-251°.

reactant | lithium diisopropylamide | 0.80 mmoles | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 0.12 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.5M, 0.32 ml | C(CCC)[Li]
reactant | 5-(4-cyanophenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | 0.17 g | C(#N)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | C14H13N3
reactant | benzyl bromide | 0.1 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 5-benzyl-5-(4-cyanophenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine hydrochloride | Cl.C(C1=CC=CC=C1)C1(CCCC=2N1C=NC2)C2=CC=C(C=C2)C#N | InChI=1S/C21H19N3.ClH/c22-14-18-8-10-19(11-9-18)21(13-17-5-2-1-3-6-17)12-4-7-20-15-23-16-24(20)21;/h1-3,5-6,8-11,15-16H,4,7,12-13H2;1H
